US07608629B2
Preparation 11. 1-Cyclopropylmethyl-piperidin-4-ol
Add bromomethylcyclopropane (2.025 g, 15 mmol) to a solution of 4-hydroxypiperidine (3.035 g, 30 mmol) in THF (10 mL) and stir the mixture overnight. Dilute the mixture with ethylacetate, wash with saturated NaHCO3 solution, dry over Na2SO4, filter and concentrate to give a residue. Chromatography (silica gel, eluting with 8% 2M NH3-methanol in CH2Cl2) provides 1.087 g (47%) of the title compound: mass spectrum (ion spray): m/z=156.2 (M+1); 1H NMR (CDCl3, ppm): 3.60 (m, 1H), 2.81 (m, 2H), 2.16 (d, 1H), 2.10 (m, 3H), 1.84 (m, 2H), 1.53 (m, 3H), 0.79 (m, 1H), 0.44 (m, 2H), 0.00 (m, 2H).

reactant | bromomethylcyclopropane | 15 mmol, 2.025 g | BrCC1CC1 | C4H7Br
reactant | 4-hydroxypiperidine | 30 mmol, 3.035 g | OC1CCNCC1 | C5H11NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 1-Cyclopropylmethyl-piperidin-4-ol | 1.087 g, 47% | C1(CC1)CN1CCC(CC1)O | C9H17NO
